US04065618
p-Methoxybenzyl 7-phenoxyacetamido-3-diethylamino-3-cephem-4-carboxylate is prepared with p-methoxybenzyl 7-phenoxyacetamido-3-ethylsulfonyloxy-3-cephem-4-carboxylate and diethylamine in THF.

reactant | p-methoxybenzyl 7-phenoxyacetamido-3-ethylsulfonyloxy-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)CC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C25H26N2O9S2
reactant | diethylamine | C(C)NCC | C4H11N
solvent | THF | C1CCOC1 | C4H8O
product | p-Methoxybenzyl 7-phenoxyacetamido-3-diethylamino-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)N(CC)CC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C27H31N3O6S
